US04847256
4,5,6,7-Tetrahydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide
A solution of 3.44 g of 4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide (Ex. 24) in 40 ml of trifluoroacetic acid was stirred under nitrogen and heated to 60° C. in an oil bath. Then 5.0 ml of triethylsilane was added and the mixture was stirred at 60° C. for 24 hours. The reaction mixture was cooled and carefully poured into a beaker containing a 25% aqueous solution of potassium hydroxide and cracked ice. The product which precipitated was extracted into chloroform. The chloroform was washed with water, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated in vacuo and gave crystals which were recrystallized from toluene-hexane to give the desired product, mp 152°-154° C.

reactant | 4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide | 3.44 g | FC(C=1C=C(C=CC1)C1=CCNC=2N1N=CC2C(=O)N)(F)F | C14H11F3N4O
reactant | triethylsilane | 5.0 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | potassium hydroxide | [OH-].[K+]
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4,5,6,7-Tetrahydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide | FC(C=1C=C(C=CC1)C1CCNC=2N1N=CC2C(=O)N)(F)F | C14H13F3N4O
